US07119207B2
To a solution of 1.2 g (0.0043 m) of hydroxy-(6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl) acetic acid methyl ester dissolved in 40 ml of acetone was added dropwise 1.6 ml of a 2.67 m solution of chromic acid in sulfuric acid/H2O (Jones reagent). The mixture was stirred for 90 minutes at room temperature. The acetone was decanted from the green precipitate and evaporated. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate. The ethyl acetate solution was dried with sodium sulfate and evaporated to yield 1.0 g (84%) of (6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro quinolin-7-yl)-oxo acetic acid as a yellow amorphous solid. 1H NMR (CDCl3) δ 2.60 (m, 2H), 2.90 (m, 2H), 3.20 (s, 3H), 3.80 (s, 3H), 3.90 (s, 3H), 6.80 (s, 1H), 7.40 (s, 1H). Mass spectrum: m/e=277.9 (p+1). TLC (3/1 chloroform/ethyl acetate) Rf=0.8.

reactant | hydroxy-(6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-7-yl) acetic acid methyl ester | 1.2 g | COC(C(C1=C(C=C2CCC(N(C2=C1)C)=O)OC)O)=O | C14H17NO5
reactant | chromic acid | [Cr](=O)(=O)(O)O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | sulfuric acid H2O | S(O)(O)(=O)=O.O
product | (6-methoxy-1-methyl-2-oxo-1,2,3,4-tetrahydro quinolin-7-yl)-oxo acetic acid | 1.0 g, 84% | COC=1C=C2CCC(N(C2=CC1C(C(=O)O)=O)C)=O | C13H13NO5
